US08278441B2
N-(3-((4aS,7aS)-2-Amino-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-5-fluorophenyl)-5-fluoropicolinamide dihydrochloride
The mixture is cooled to room temperature and stirring is continued for 3 days. The mixture is diluted with dichloromethane and aqueous 0.1 M NaOH and is extracted five times with dichloromethane. The combined organic phase is diluted with MeOH to make a homogenous solution, dried over sodium sulfate, filtered, and the solvent is removed under reduced pressure to give a residue that is purified on silica gel with 5% methanol in dichloromethane to give the title compound as the freebase (0.109 g, 51%). Hydrogen chloride is bubbled through the solution of N-(3-((4aS,7aS)-2-amino-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-5-fluorophenyl)-5-fluoropicolinamide (0.109 g, 0.279 mmol) in methanol for approximately 5 min. The solution is then concentrated under reduced pressure and dried on high vacuum to yield the title compound (0.128 g, 51%). ES/MS m/e: 391 (M+1)

reactant | Hydrogen chloride | Cl | ClH
reactant | N-(3-((4aS,7aS)-2-amino-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-5-fluorophenyl)-5-fluoropicolinamide | 0.279 mmol, 0.109 g | NC=1SC[C@H]2[C@@](N1)(COC2)C=2C=C(C=C(C2)F)NC(C2=NC=C(C=C2)F)=O | C18H16F2N4O2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | NaOH | 0.1 M | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | N-(3-((4aS,7aS)-2-Amino-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]thiazin-7a-yl)-5-fluorophenyl)-5-fluoropicolinamide dihydrochloride | 0.128 g, 51% | Cl.Cl.NC=1SC[C@H]2[C@@](N1)(COC2)C=2C=C(C=C(C2)F)NC(C2=NC=C(C=C2)F)=O | InChI=1S/C18H16F2N4O2S.2ClH/c19-12-1-2-15(22-6-12)16(25)23-14-4-10(3-13(20)5-14)18-9-26-7-11(18)8-27-17(21)24-18;;/h1-6,11H,7-9H2,(H2,21,24)(H,23,25);2*1H/t11-,18+;;/m0../s1
